US04593144
Preparation of 2-Nitro-3-Methylbenzotrichloride
1.5 gms of 2-nitro-3-methyl benzyl bromide was mixed with 0.05 gms of tetraethyl ammonium chloride in 15 ml of methylene chloride and 10 ml of carbon tetrachloride. 20 ml of 50% sodium hydroxide was added and the mixture refluxed for about 3 hours. After completion of the reaction, the organic layer was separated, washed with water, and the product separated to give 36% yield as determined by GC-Mass spectral analysis.

reactant | 2-nitro-3-methyl benzyl bromide | 1.5 gms | [N+](=O)([O-])C1=C(CBr)C=CC=C1C | C8H8BrNO2
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | tetraethyl ammonium chloride | 0.05 gms | [Cl-].C(C)[N+](CC)(CC)CC
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-Nitro-3-Methylbenzotrichloride | 36% yield | [N+](=O)([O-])C1=C(C=CC=C1C)C(Cl)(Cl)Cl | C8H6Cl3NO2
